** sch_path: /home/kaavya/chip/SRAM_SKY130/xschem/six_t_read_snm.sch
**.subckt six_t_read_snm
XM2 Q1 Qb1 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1.26 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM3 Qb2 Q2 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=1.26 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM4 Qb2 net1 net1 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM5 Q1 net1 net1 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM6 Q1 Qb1 net1 net1 sky130_fd_pr__pfet_01v8 L=0.15 W=0.55 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM7 Qb2 Q2 net1 net1 sky130_fd_pr__pfet_01v8 L=0.15 W=0.55 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
V1 Qb1 0 1.8
V2 Q2 0 1.8
vdd net1 0 1.8
**** begin user architecture code



.lib /home/kaavya/.ciel/ciel/sky130/versions/9233c19260cd813c3fa67dd4594fe4cc67016832/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.control


dc V1 0 1.8 0.01
wrdata dc1_data.txt v(Q1) v(Qb1)

dc V2 0 1.8 0.01
wrdata dc2_data.txt v(Q2) v(Qb2)

*plot dc1.v(Qb1) vs dc1.v(Q1) dc2.v(Qb2) vs dc2.v(Q2)
.endc




**** end user architecture code
**.ends
.end
